US04883815
10.6 g (0.043 mol) of 8-chloro-1,1-dimethyl-1,2,3,4,5,6-hexahydrobenzo[f]quinoline and 6.6 ml (0.047 mol) of triethylamine are dissolved in 100 ml of methylene chloride and 3.5 ml (0.047 mol) of acetyl bromide dissolved in 20 ml of methylene chloride are added dropwise thereto at 0°. After stirring for 1 hour, the mixture is extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Recrystallization from methylene chloride/hexane gives 4-acetyl-8-chloro-1,1-dimethyl-1,2,3,4,5,6-hexahydrobenzo[f]quinoline as white crystals with melting point 126°-127°.

reactant | 8-chloro-1,1-dimethyl-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 0.043 mol, 10.6 g | ClC1=CC2=C(C=3C(CCNC3CC2)(C)C)C=C1 | C15H18ClN
reactant | triethylamine | 0.047 mol, 6.6 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl bromide | 0.047 mol, 3.5 ml | C(C)(=O)Br | C2H3BrO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-acetyl-8-chloro-1,1-dimethyl-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | C(C)(=O)N1CCC(C=2C3=C(CCC12)C=C(C=C3)Cl)(C)C | C17H20ClNO
